US06271225B1
In the same manner as in Starting Material Synthesis Example 19 and using ethyl 6-methoxy-2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate, ethyl acetate, 10% palladium-carbon and hydrogen (60 atm kg/cm2), ethyl 2-(2-aminoanilino)-6-methoxybenzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 6-methoxy-2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate | COC=1C=CC2=C(SC(=C2C(=O)OCC)NC2=C(C=CC=C2)[N+](=O)[O-])C1 | C18H16N2O5S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-aminoanilino)-6-methoxybenzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)C=C(C=C3)OC)C(=O)OCC)C=CC=C1 | C18H18N2O3S
